US07884094B2
A mixture of 6-ethyl-7-methoxy-3-naphthalen-2-yl-chromen-4-one (e, 0.36 g), hydroxylamine hydrochloride (0.6 g), triethylamine (0.5 mL) in EtOH (10 mL) was heated at 140° C. in microwave reactor for 4 h. The mixture was diluted with water (100 mL) and extracted with CH2Cl2 (2×50 mL). The combined organic extracts were washed with water and dried using a drying agent. The oil obtained on concentration was flash chromatograghed on silica gel to give 4-(naphthalen-2-yl)-5-(2-hydroxy-4-methoxy-5-ethyl-phenyl) isoxazole as white powder (f, 0.19 g). 1H-NMR (CDCl3) δ (ppm) 8.57 (s, 1H), 7.8 (m, 4H), 7.5 (m, 3H), 7.10 (s, 1H), 6.52 (s, 2H), 3.92 (s, 3H), 2.4 (q, 2H, J=7), 1.0 (t, 3H, J=7); ESMS clcd for C22H19NO3: 345.1; Found: 346.0 (M+H)+.

reactant | 6-ethyl-7-methoxy-3-naphthalen-2-yl-chromen-4-one | 0.36 g | C(C)C=1C=C2C(C(=COC2=CC1OC)C1=CC2=CC=CC=C2C=C1)=O | C22H18O3
reactant | hydroxylamine hydrochloride | 0.6 g | Cl.NO
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-(naphthalen-2-yl)-5-(2-hydroxy-4-methoxy-5-ethyl-phenyl) isoxazole | C1=C(C=CC2=CC=CC=C12)C=1C=NOC1C1=C(C=C(C(=C1)CC)OC)O | C22H19NO3
